US04772601
1-[4-(4-Methyl-1-piperazinyl)-2-butynyl]-5-oxo-2-pyrrolidine carboxamide dihydrate
An ice water chilled solution of 5-methoxycarbonyl-1-[4-(4-methyl-1-piperazinyl)-2-butynyl]-2-pyrrolidinone (5.02 g) in sieve dried methanol (150 ml) was treated with anhydrous ammonia for fifteen minutes and was allowed to stand at ambient temperture overnight. The solution was concentrated to an amber oil.

reactant | 5-methoxycarbonyl-1-[4-(4-methyl-1-piperazinyl)-2-butynyl]-2-pyrrolidinone | 5.02 g | COC(=O)C1CCC(N1CC#CCN1CCN(CC1)C)=O | C15H23N3O3
reactant | ammonia | N | H3N
solvent | methanol | 150 ml | CO | CH4O
product | 1-[4-(4-Methyl-1-piperazinyl)-2-butynyl]-5-oxo-2-pyrrolidine carboxamide dihydrate | O.O.CN1CCN(CC1)CC#CCN1C(CCC1=O)C(=O)N | InChI=1S/C14H22N4O2.2H2O/c1-16-8-10-17(11-9-16)6-2-3-7-18-12(14(15)20)4-5-13(18)19;;/h12H,4-11H2,1H3,(H2,15,20);2*1H2
